US08053574B2
Step 1: (2-tert-Butylcarbamoyl-ethyl)-carbamic acid tert-butyl ester
BOC-Beta-Ala-OH (25 g, 0.132 mol) is dissolved in DCM (500 ml) and then treated with EDC1 (30.4 g, 0.59 mol) followed by t-butylamine (16.7 ml, 0.159 mol) to give a pale orange solution. The reaction mixture is stirred at room temperature overnight and then partitioned between 20% citric acid (400 ml) and DCM (250 ml). The organic portion is separated and washed with water (400 ml), saturated NaHCO3 (400 ml), brine (400 ml), dried over MgSO4 and concentrated in vacuo to afford the title compound as a white solid.

reactant | BOC-Beta-Ala-OH | 0.132 mol, 25 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | t-butylamine | 0.159 mol, 16.7 ml | C(C)(C)(C)N | C4H11N
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | (2-tert-Butylcarbamoyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(NC(C)(C)C)=O)=O | C12H24N2O3
